US05547949
Preparation of 21-{4-[2-(2,2-dimethylpropylamino)-6-pyrrolodino-4-pirimidinyl]-1-piperazinyl }-16α-methylpregna-1,4,9(11)-triene-3,20-dione
16α-Methyl-21-(4-bromobenzenesulfonyloxy)-pregna-1,4,9(11)-triene-3,20-dione is reacted with 2-(2,2-dimethylpropylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine as described in Example 13 to obtain the title compound in a yield of 74.1%, m.p.:130° C.

reactant | 16α-Methyl-21-(4-bromobenzenesulfonyloxy)-pregna-1,4,9(11)-triene-3,20-dione | C[C@H]1[C@H](C(COS(=O)(=O)C2=CC=C(C=C2)Br)=O)[C@]2(CC=C3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)C | C28H31BrO5S
reactant | 2-(2,2-dimethylpropylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine | CC(CNC1=NC(=CC(=N1)N1CCNCC1)N1CCCC1)(C)C | C17H30N6
product | 21-{4-[2-(2,2-dimethylpropylamino)-6-pyrrolodino-4-pirimidinyl]-1-piperazinyl }-16α-methylpregna-1,4,9(11)-triene-3,20-dione | yield of 74.1% | CC(CNC1=NC(=CC(=N1)N1CCN(CC1)CC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)=O)N1CCCC1)(C)C | C39H56N6O2
